US04297357
To a mixture of 7.73 g of 2-chloro-N-(3,4-dimetoxyphenethyl)acetamide, 5.12 g of 2-amino-4-chlorobenzamide, 13.5 g of sodium iodide and 3.63 g of magnesium oxide was added 30 ml of dimethylformamide and the resulting mixture was stirred at 90° to 100° C. for 4.5 hours. The reaction solution was concentrated under reduced pressure and the residue was extracted with 500 ml of chloroform. The chloroform extract was washed successively with 10% hydrochloric acid, water, a 5% aqueous sodium carbonate solution, a 5% aqueous sodium sulfite solution and water, dried and then concentrated to dryness under reduced pressure. The residue was recrystallized from methanol to obtain 8.01 g of 2-(2-carbamoyl-5-chlorophenylamino)-N-(3,4-dimethoxyphenethyl)acetamide having a melting point of 167.5°-168.5° C.

reactant | 2-chloro-N-(3,4-dimetoxyphenethyl)acetamide | 7.73 g | ClCC(=O)NCCC1=CC(=C(C=C1)OC)OC | C12H16ClNO3
reactant | 2-amino-4-chlorobenzamide | 5.12 g | NC1=C(C(=O)N)C=CC(=C1)Cl | C7H7ClN2O
reactant | sodium iodide | 13.5 g | [I-].[Na+]
reactant | magnesium oxide | 3.63 g | [O-2].[Mg+2]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-(2-carbamoyl-5-chlorophenylamino)-N-(3,4-dimethoxyphenethyl)acetamide | 8.01 g | C(N)(=O)C1=C(C=C(C=C1)Cl)NCC(=O)NCCC1=CC(=C(C=C1)OC)OC | C19H22ClN3O4
